US06949542B2
(2-{3-[3-(6-Cyclopropyl-4-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J3) (207 mg, 0.75 mmol) and 3-[3-(6-cyclopropyl-4-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K33) (264 mg, 0.75 mmol) according to the general procedure M. Obtained as an amorphous off-white substance (297 mg, 72%).

reactant | (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 207 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)N)=O | C12H15F3N2O2
reactant | 3-[3-(6-cyclopropyl-4-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 264 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1C)C1CC1)=O | C22H25NO3
product | (2-{3-[3-(6-Cyclopropyl-4-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1C)C1CC1)=O)=O | C30H30F3N3O4
